US07592358B2
48.6a. 5-(2,4-dichlorophenyl)pyrazin-2-ylamine
The product was prepared analogously to Example 48.1a from 1.74 g (10.0 mmol) of 5-bromopyrazin-2-ylamine and 1.91 g (10.0 mmol) of 2,4-dichlorophenylboric acid. Yield: 800 mg (33% of theoretical); C10H7Cl2N3 (M=240.088); calc.: molpeak (M+H)+240/242/244 (2 Cl); found: molpeak (M+H)+:240/242/244 (2 Cl); Rf value: 0.35 (silica gel, PE/EtOAc 7:3).

reactant | 5-bromopyrazin-2-ylamine | 10.0 mmol, 1.74 g | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | 2,4-dichlorophenylboric acid | 10.0 mmol, 1.91 g | ClC1=C(C=CC(=C1)Cl)OB(O)O | C6H5BCl2O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2,4-dichlorophenyl)pyrazin-2-ylamine | ClC1=C(C=CC(=C1)Cl)C=1N=CC(=NC1)N | C10H7Cl2N3
